US04994479
Under ice cooling 0.2 g of sodium borohydride was added to a mixture of 2.8 g of ethyl 4-formyl-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate obtained in Reference Example 64 and 30 ml of ethanol. The mixture was stirred for 2 hours and 50 ml of ethyl acetate was added thereto. The mixture was rendered acidic with diluted hydrochloric acid. The ethyl acetate layer was fractionated, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethanol to obtain 2.06 g of ethyl 4-hydroxymethyl-2-[p-(4phenylbutoxy)benzamido]phenoxyacetate.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethyl 4-formyl-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate | 2.8 g | C(=O)C1=CC(=C(OCC(=O)OCC)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O | C28H29NO6
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-hydroxymethyl-2-[p-(4phenylbutoxy)benzamido]phenoxyacetate | 2.06 g | OCC1=CC(=C(OCC(=O)OCC)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O | C28H31NO6
